US07750185B2
Preparation can be carried out analogously to Synthetic Example 1 using 1.07 g (1.00 mmol) of bis [8-({(2E)-3-[3-methoxy-4-(pentyloxy)phenyl)prop-2-enoyl}oxy)octyl]2,2-bis(nitrobenzyl)malonate, 1.62 g (6.00 mmol) Ferric chloride hexahydrate and 0.65 g (10.00 mmol) Zinc powder yield bis [8-({(2E)-3-[3-methoxy-4-(pentyloxy)phenyl)prop-2-enoyl}oxy)octyl]2,2-bis(aminobenzyl)malonate.

reactant | bis [8-({(2E)-3-[3-methoxy-4-(pentyloxy)phenyl)prop-2-enoyl}oxy)octyl]2,2-bis(nitrobenzyl)malonate | 1.00 mmol, 1.07 g | COC=1C=C(C=CC1OCCCCC)/C=C/C(=O)OCCCCCCCCOC(C(C(=O)OCCCCCCCCOC(\C=C\C1=CC(=C(C=C1)OCCCCC)OC)=O)(C(C1=CC=CC=C1)[N+](=O)[O-])C(C1=CC=CC=C1)[N+](=O)[O-])=O | C63H82N2O16
catalyst | Zinc | 10.00 mmol, 0.65 g | [Zn] | Zn
product | bis [8-({(2E)-3-[3-methoxy-4-(pentyloxy)phenyl)prop-2-enoyl}oxy)octyl]2,2-bis(aminobenzyl)malonate | COC=1C=C(C=CC1OCCCCC)/C=C/C(=O)OCCCCCCCCOC(C(C(=O)OCCCCCCCCOC(\C=C\C1=CC(=C(C=C1)OCCCCC)OC)=O)(C(C1=CC=CC=C1)N)C(C1=CC=CC=C1)N)=O | C63H86N2O12
